US06255333B1
5-Acetamido-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (447 mg, the compound of Example A1) in pyridine (5ml) was added dropwise acetyl chloride (0.5 ml). The reaction mixture was stirred at room temperature for 2 days and then heated at 50° C. for 4 hours. The reaction mixture was partitioned between ether (50 ml) and water (50ml), the organic layer was separated, dried (MgSO4) and evaporated.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | acetyl chloride | 0.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 5ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetamido-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | C(C)(=O)NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C13H6Cl2F3IN4O
